.title KiCad schematic
U1 LED data GND GND SDA SCL row0 row1 row2 row3 NC_01 NC_02 NC_03 NC_04 col5 col4 col3 col2 col1 col0 VCC reset GND NC_05 ProMicro
SW2 col1 Net-_D2-Pad2_ SW_PUSH
D2 row0 Net-_D2-Pad2_ D
SW3 col2 Net-_D3-Pad2_ SW_PUSH
D3 row0 Net-_D3-Pad2_ D
SW4 col3 Net-_D4-Pad2_ SW_PUSH
SW5 col4 Net-_D5-Pad2_ SW_PUSH
SW6 col5 Net-_D6-Pad2_ SW_PUSH
D4 row0 Net-_D4-Pad2_ D
D5 row0 Net-_D5-Pad2_ D
D6 row0 Net-_D6-Pad2_ D
SW1 col0 Net-_D1-Pad2_ SW_PUSH
D1 row0 Net-_D1-Pad2_ D
SW8 col1 Net-_D8-Pad2_ SW_PUSH
D8 row1 Net-_D8-Pad2_ D
SW9 col2 Net-_D9-Pad2_ SW_PUSH
D9 row1 Net-_D9-Pad2_ D
SW10 col3 Net-_D10-Pad2_ SW_PUSH
SW11 col4 Net-_D11-Pad2_ SW_PUSH
SW12 col5 Net-_D12-Pad2_ SW_PUSH
D10 row1 Net-_D10-Pad2_ D
D11 row1 Net-_D11-Pad2_ D
D12 row1 Net-_D12-Pad2_ D
SW7 col0 Net-_D7-Pad2_ SW_PUSH
D7 row1 Net-_D7-Pad2_ D
SW14 col1 Net-_D14-Pad2_ SW_PUSH
D14 row2 Net-_D14-Pad2_ D
SW15 col2 Net-_D15-Pad2_ SW_PUSH
D15 row2 Net-_D15-Pad2_ D
SW16 col3 Net-_D16-Pad2_ SW_PUSH
SW17 col4 Net-_D17-Pad2_ SW_PUSH
SW18 col5 Net-_D18-Pad2_ SW_PUSH
D16 row2 Net-_D16-Pad2_ D
D17 row2 Net-_D17-Pad2_ D
D18 row2 Net-_D18-Pad2_ D
SW13 col0 Net-_D13-Pad2_ SW_PUSH
D13 row2 Net-_D13-Pad2_ D
SW20 col4 Net-_D20-Pad2_ SW_PUSH
D20 row3 Net-_D20-Pad2_ D
SW21 col5 Net-_D21-Pad2_ SW_PUSH
D21 row3 Net-_D21-Pad2_ D
SW19 col3 Net-_D19-Pad2_ SW_PUSH
D19 row3 Net-_D19-Pad2_ D
RSW1 reset GND SW_PUSH
JP1 data Net-_J1-PadB_  
L8 Net-_L7-Pad3_ GND Net-_L14-Pad1_ VCC SK6812MINI
L9 Net-_L15-Pad3_ GND Net-_L10-Pad1_ VCC SK6812MINI
L10 Net-_L10-Pad1_ GND Net-_L10-Pad3_ VCC SK6812MINI
L11 Net-_L11-Pad1_ GND Net-_L11-Pad3_ VCC SK6812MINI
L12 Net-_L11-Pad3_ GND Net-_L12-Pad3_ VCC SK6812MINI
L7 Net-_L13-Pad3_ GND Net-_L7-Pad3_ VCC SK6812MINI
L14 Net-_L14-Pad1_ GND Net-_L14-Pad3_ VCC SK6812MINI
L15 Net-_L15-Pad1_ GND Net-_L15-Pad3_ VCC SK6812MINI
L16 Net-_L10-Pad3_ GND Net-_L16-Pad3_ VCC SK6812MINI
L17 Net-_L17-Pad1_ GND Net-_L11-Pad1_ VCC SK6812MINI
L18 Net-_L12-Pad3_ GND Net-_L18-Pad3_ VCC SK6812MINI
L13 Net-_L13-Pad1_ GND Net-_L13-Pad3_ VCC SK6812MINI
L20 Net-_L14-Pad3_ GND Net-_L20-Pad3_ VCC SK6812MINI
L21 Net-_L20-Pad3_ GND Net-_L15-Pad1_ VCC SK6812MINI
L22 Net-_L16-Pad3_ GND Net-_L22-Pad3_ VCC SK6812MINI
L23 Net-_L23-Pad1_ GND Net-_L17-Pad1_ VCC SK6812MINI
L24 Net-_L18-Pad3_ GND Net-_L24-Pad3_ VCC SK6812MINI
L19 NC_06 GND Net-_L13-Pad1_ VCC SK6812MINI
L26 Net-_L25-Pad3_ GND Net-_L23-Pad1_ VCC SK6812MINI
L27 Net-_L24-Pad3_ GND Net-_L27-Pad3_ VCC SK6812MINI
L25 Net-_L22-Pad3_ GND Net-_L25-Pad3_ VCC SK6812MINI
J2 Net-_J2-Pad1_ Net-_J2-Pad2_ Net-_J2-Pad3_ Net-_J2-Pad4_ OLED
JP2 GND Net-_J2-Pad4_  
JP3 VCC Net-_J2-Pad3_  
JP4 SCL Net-_J2-Pad2_  
JP5 SDA Net-_J2-Pad1_  
JP6 SDA Net-_J2-Pad4_  
JP7 SCL Net-_J2-Pad3_  
JP8 VCC Net-_J2-Pad2_  
JP9 GND Net-_J2-Pad1_  
R1 VCC SDA R
R2 VCC SCL R
J1 Net-_J1-PadA_ Net-_J1-PadB_ GND VCC MJ-4PP-9
J3 GND LED VCC LED
P2 Net-_J1-PadB_ i2c-pin
P1 Net-_J1-PadA_ i2c-pin
L3 Net-_L2-Pad3_ GND LED VCC SK6812MINI
L2 Net-_L1-Pad3_ GND Net-_L2-Pad3_ VCC SK6812MINI
L1 Net-_L1-Pad1_ GND Net-_L1-Pad3_ VCC SK6812MINI
L6 Net-_L27-Pad3_ GND Net-_L5-Pad1_ VCC SK6812MINI
L5 Net-_L5-Pad1_ GND Net-_L4-Pad1_ VCC SK6812MINI
L4 Net-_L4-Pad1_ GND Net-_L1-Pad1_ VCC SK6812MINI
.end
